US08871361B2
Synthesis of 3-bromo-N-(2,6-diisopropylphenyl)-5-methylbenzimidamide
To a 250 mL 3-neck round bottom flask was added 2,6-diisopropylaniline (2.365 g, 13.34 mmol) and 70 mL toluene. The solution was cooled in an ice bath under nitrogen and trimethylaluminum (2.0 M in toluene, 9.34 mL, 18.68 mmol) was added dropwise via dropping funnel. The reaction mixture was stirred at room temperature for 2 hours. Next, 3-bromo-5-methylbenzonitrile (3.4 g, 17.34 mmol) in 30 mL toluene was added and the reaction mixture was heated to 70° C. overnight under nitrogen. The reaction mixture was cooled in an ice bath and was poured onto a stirring slurry of silica gel in 2:1 dichloromethane/methanol (v/v). The silica gel was filtered off and washed with dichloromethane and methanol. The filtrate was evaporated leaving a solid. Hexane was added to the solvent and the solid was filtered off and washed with hexane (2.92 g, 59%).

reactant | 2,6-diisopropylaniline | 13.34 mmol, 2.365 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | trimethylaluminum | 18.68 mmol, 2.0 M, 9.34 mL | C[Al](C)C
reactant | 3-bromo-5-methylbenzonitrile | 17.34 mmol, 3.4 g | BrC=1C=C(C#N)C=C(C1)C | C8H6BrN
reactant | dichloromethane methanol | ClCCl.CO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | CCCCCC | C6H14
product | 3-bromo-N-(2,6-diisopropylphenyl)-5-methylbenzimidamide | BrC=1C=C(C(NC2=C(C=CC=C2C(C)C)C(C)C)=N)C=C(C1)C | C20H25BrN2
